US04691025
Preparation of the Bismaleimide of Formula III
A two liter round bottom flask equipped with a paddle stirrer, condenser, nitrogen inlet and bubbler, thermometer, heating mantle, and Therm-o-Watch controller was charged with 240 ml acetone and 64.8 g. maleic anhydride. To the stirring mixture was added a solution of 129.6 g. of 4,4'-bis(3-aminophenoxy)diphenyl sulfone in 240 ml acetone in portions over 30 minutes. The exotherm was controlled at about 40° C. by lowering the heating mantle as needed. The reaction mixture was maintained at 40° C. for an additional 30 minutes after addition was complete during which time it turned into an opaque slurry. To this mixture was added 3.26 g of magnesium chloride hexahydrate (MgCl2.H2O), and 16 ml of triethylamine. A 164 g charge of acetic anhydride was then gradually added over 15 minutes while controlling the reaction temperature at about 40° C. The reaction was then maintained at 40° C. for about 20 hours. [Note: the reaction was complete after about 5 hours by liquid chromatographic analysis.]

reactant | maleic anhydride | C1(\C=C/C(=O)O1)=O | C4H2O3
reactant | 4,4'-bis(3-aminophenoxy)diphenyl sulfone | C1=CC(=CC(=C1)OC2=CC=C(C=C2)S(=O)(=O)C3=CC=C(C=C3)OC4=CC=CC(=C4)N)N | C24H20N2O4S
reactant | magnesium chloride hexahydrate | 3.26 g | O.O.O.O.O.O.[Cl-].[Mg+2].[Cl-]
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | acetone | 240 ml | CC(=O)C | C3H6O
reactant | acetone | 240 ml | CC(=O)C | C3H6O
solvent | triethylamine | 16 ml | C(C)N(CC)CC | C6H15N
product | Bismaleimide | C1=CC(=CC=C1CC2=CC=C(C=C2)N3C(=O)C=CC3=O)N4C(=O)C=CC4=O | C21H14N2O4
